US08389555B2
STEP A: Preparation of naphthalene-2-carboxylic acid (2-hydroxy-ethyl)-amide (32A).
To a mixture of 3.15 g (30 mmol) 2,2-dimethoxy-ethylamine and 40 mL dioxane is added 1.91 g (10 mmol) naphthalene-2-carbonyl chloride. After stirring overnight the solution is pored into 200 mL of ice water. Filtration yields the product in almost quantitative yield as a white solid.

reactant | 2,2-dimethoxy-ethylamine | 30 mmol, 3.15 g | COC(CN)OC | C4H11NO2
reactant | naphthalene-2-carbonyl chloride | 10 mmol, 1.91 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | naphthalene-2-carboxylic acid (2-hydroxy-ethyl)-amide | quantitative yield | OCCNC(=O)C1=CC2=CC=CC=C2C=C1 | C13H13NO2
